US06140318
Step 2: 3-Nitrophenethylamine
A mixture of 3-nitrophenethyl azide (0.9 g, 4.69 mmol), triphenyl phosphine (1.22 g, 4.66 mmol) and CH2Cl2 (80 mL) was stirred at room temperature for 3 days. Solvent was removed and the residue was taken up in EtOH (20 mL). The solution was heated to 70° C., added 2M NaOH aqueous solution (10 mL) and stirred at room temperature for 2 hrs. A 10% HCl aqueous solution (20 mL) was then added and refluxed for 2 hrs. After the mixture cool to room temperature, it was washed with benzene, basified with 5N NaOH to pH-12, extracted with ethyl acetate. The organic layer was dried over Na2SO4 and concentrated to give the product (0.63 g) as a yellow oil.

reactant | 3-nitrophenethyl azide | 4.69 mmol, 0.9 g | [N+](=O)([O-])C=1C=C(CCN=[N+]=[N-])C=CC1 | C8H8N4O2
reactant | triphenyl phosphine | 4.66 mmol, 1.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-Nitrophenethylamine | 0.63 g | [N+](=O)([O-])C=1C=C(CCN)C=CC1 | C8H10N2O2
